US04855324
5-(2-bromophenyl)-4-pentynoic acid
To 10 ml of diethylamine was added with stirring 0.5 g (5.1 mmol) of 4-pentynoic acid, 1.4g (5 mmol) of 1-bromo-2-iodobenzene, and 60mg (0.05 mmol) of tetrakis(triphenylphosphine)palladium(O) The slurry was degassed with argon and 0.19g (1.0 mmol) of CuI was added. The reaction mixture was stirred for 2 hr. at room temperature and then poured into approximately 100ml of a 10% HCl solution. The resulting precipitate was filtered, washed with water and dried. The solid was taken up in hot CHCl3 and filtered to remove insoluble salts. After evaporation of the solvent, the resulting orange solid was recrystallized from a chloroform-hexane mixture to produce a tan solid, m.p. 87-91°C.

reactant | 4-pentynoic acid | 5.1 mmol, 0.5 g | C(CCC#C)(=O)O | C5H6O2
reactant | 1-bromo-2-iodobenzene | 5 mmol, 1.4g | BrC1=C(C=CC=C1)I | C6H4BrI
reactant | HCl | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.05 mmol, 60mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
catalyst | CuI | 1.0 mmol, 0.19g | [Cu]I
solvent | diethylamine | 10 ml | C(C)NCC | C4H11N
product | 5-(2-bromophenyl)-4-pentynoic acid | BrC1=C(C=CC=C1)C#CCCC(=O)O | C11H9BrO2
